* Include Sky130 PDK models
.include "/opt/pdk/sky130A/libs.tech/ngspice/sky130_fd_pr/models.spice"
* NGSPICE file created from inverter.ext - technology: sky130A

.subckt inverter A B VP VN
X0 B A VN VN sky130_fd_pr__nfet_01v8 ad=0.525 pd=3.1 as=0.525 ps=3.1 w=1.05 l=0.15
X1 B A VP VP sky130_fd_pr__pfet_01v8 ad=0.525 pd=3.1 as=0.525 ps=3.1 w=1.05 l=0.15
.ends

